US06750232B2
2-Amino-6-(2-furyl)-5-(4-methoxy-3-pyridyl)-3-pyridinecarbonitrile
A solution of 2-amino-5-bromo-6-(2-furyl)nicotinonitrile (1.80 g, 6.82 mmol), 2-methoxy-5-(1,1,1-tributylstannyl)pyridine (5.20 g, 13.1 mmol) and dichlorobis(triphenylphosphine) palladium (II) (480 mg, 0.634 mmol) in N,N-dimethylformamide (18 ml) was stirred at 80° C. for 2 hours in a nitrogen atmosphere. After cooling as it was, the reaction solution was diluted with ethyl acetate and an aqueous saturated solution of ammonium chloride. The organic layer was washed with an aqueous saturated solution of ammonium chloride (×2), then dried over anhydrous sodium sulfate and concentrated. The residue was subjected to silica gel column chromatography (elution solvent; hexane, hexane:ethyl acetate=8:1, 4:1), and then suspended in diethyl ether. The resulting solid was collected by filtration and washed with diethyl ether, to give the title compound (1.12 g, 56%) as a yellow solid.

reactant | 2-amino-5-bromo-6-(2-furyl)nicotinonitrile | 6.82 mmol, 1.80 g | NC1=C(C#N)C=C(C(=N1)C=1OC=CC1)Br | C10H6BrN3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-6-(2-furyl)-5-(4-methoxy-3-pyridyl)-3-pyridinecarbonitrile | 1.12 g, 56% | NC1=NC(=C(C=C1C#N)C=1C=NC=CC1OC)C=1OC=CC1 | C16H12N4O2
